US07795262B2
Step 1. Preparation of 2-[2-(4-cyclobutyl-piperazin-1-yl)-2-oxo-ethyl]-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid ethyl ester
To a stirred solution of 1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid ethyl ester hydrochloride (530 mg, 2.20 mmol) in acetonitrile (20.0 ml) are added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (474 mg, 2.20 mmol, 1.0 eq.), K2CO3 (608 mg, 4.40 mmol, 2.0 eq.) and NaI (100 mg). The resulting mixture is stirred at 40° C. overnight. Water (10.0 ml) is added to quench the reaction, and the acetonitrile is evaporated. The residue is extracted with DCM (20 ml×3), and the combined organic phase is dried over sodium sulfate and concentrated. The residue is purified by silica gel flash chromatography (EtOAc/4% TEA) to give the title compound. 386.1 (M++1).

reactant | 1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid ethyl ester hydrochloride | 2.20 mmol, 530 mg | Cl.C(C)OC(=O)C=1C=C2CCNCC2=CC1
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 2.20 mmol, 474 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 4.40 mmol, 608 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 100 mg | [Na+].[I-]
solvent | acetonitrile | 20.0 ml | C(C)#N | C2H3N
solvent | Water | 10.0 ml | O | H2O
product | 2-[2-(4-cyclobutyl-piperazin-1-yl)-2-oxo-ethyl]-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C2CCN(CC2=CC1)CC(=O)N1CCN(CC1)C1CCC1 | C22H31N3O3
